US08445530B2
Acetic acid 2-[3-(2-hydroxy-ethyl)-phenyl]-ethyl ester
2-[3-(2-Hydroxy-ethyl)-phenyl]-ethanol (2.49 g, 15.0 mmol) was dissolved in ACN (5 ml) and acetic anhydride (3.06 g, 30 mmol) added. The mixture was stirred under reflux for 1 h and then evaporated to dryness. Silica gel chromatography (HEP/EA gradient) of the residue yielded 1.30 g of the title compound (mono-acetylated product).

reactant | 2-[3-(2-Hydroxy-ethyl)-phenyl]-ethanol | 15.0 mmol, 2.49 g | OCCC=1C=C(C=CC1)CCO | C10H14O2
reactant | acetic anhydride | 30 mmol, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ACN | 5 ml | C(C)#N | C2H3N
product | Acetic acid 2-[3-(2-hydroxy-ethyl)-phenyl]-ethyl ester | 1.30 g | OCCC=1C=C(C=CC1)CCOC(C)=O | C12H16O3
